US07465731B2
A solution of ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride (700 mg), 2-chloropyrimidine (283 mg) and N,N-diisopropylethylamine (1.09 ml) in DMF (20 ml) was stirred at 80-85° C. for 12 hours under atmospheric pressure of nitrogen. The reaction mixture was poured into a mixture of AcOEt and H2O and the organic layer was washed with brine and dried over MgSO4. The solvent was evaporated in vacuo and the residue was chromatographed on silicagel eluting with AcOEt. The eluted fractions containing the desired product were collected and evaporated in vacuo to give ethyl (2E)-3-(5-chloro-6-{[(3R)-1-(2-pyrimidinyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate (0.560 mg).

reactant | ethyl (2E)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}acrylate dihydrochloride | 700 mg | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CNCC1)/C=C/C(=O)OCC
reactant | 2-chloropyrimidine | 283 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | N,N-diisopropylethylamine | 1.09 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | ethyl (2E)-3-(5-chloro-6-{[(3R)-1-(2-pyrimidinyl)-3-pyrrolidinyl]amino}-3-pyridinyl)acrylate | 0.560 mg | ClC=1C=C(C=NC1N[C@H]1CN(CC1)C1=NC=CC=N1)/C=C/C(=O)OCC | C18H20ClN5O2
